### PR TITLE
feat: make `ap_in_ff` sorry-free

### PR DESCRIPTION
**Pull request by dannyply**
Fill the remaining `sorry`s in the finite-field almost-periodicity proof, in particular the final gap in:
  ```lean
  lemma ap_in_ff
  ```
  The main changes are in:
  ```lean
  APAP/FiniteField.lean
  ```
  The proof adds private helper lemmas for the common-kernel/Fourier-closure bridge, controls the off-closure Fourier mass by comparing `F` with `μ T ∗^ k ∗ F`, and uses a Fourier-L1 smooth-tail estimate for the specific convolution structure appearing in the finite-field argument.

  There is a substantial amount of code, so I have tried to keep the new auxiliary lemmas private/local to `APAP/FiniteField.lean` where possible. The only non-local supporting change is a small prerequisite adjustment in:
  ```lean
  APAP/Prereqs/Inner/Hoelder/Compact.lean
  ```
  allowing the compact Hölder lemmas to be used under a `[Finite α]` assumption rather than only an existing `[Fintype α]` instance.

  The quantitative statement is not weakened: the proof preserves the existing `2 ^ 32` codimension bound.

  Note: Produced with assistance from a prototype agentic Lean proof-search system. Codex was used for review, refinement and simplification.

### CODE REVIEW

**Comment by YaelDillies** [comment]
Now that I have merged #15, you need to fix the merge conflicts here.

**Comment by dannyply** [comment]
I rebased on current master after #15 and resolved the conflicts. Made a small cleanup pass on the touched code: I removed the local heartbeat increase by splitting out a small expectation-rearrangement helper and applied the same style cleanups from #15.

File: APAP/FiniteField.lean [hunk 1]
```diff
@@ -104,6 +106,616 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
 private lemma curlog_pow_le {n : ℕ} (hx₀ : 0 < x) (hn : n ≠ 0) : 𝓛 (x ^ n) ≤ n * 𝓛 x := by
   rw [← rpow_natCast]; exact curlog_rpow_le hx₀ <| mod_cast Nat.one_le_iff_ne_zero.2 hn
 
+omit [Fintype G] in
+private lemma threeAPFree_submodule_preimage_vadd [DecidableEq G] {B : Finset G}
+    (hB : ThreeAPFree (B : Set G)) {q : ℕ} [Module (ZMod q) G]
+    (V : Submodule (ZMod q) G) (a : G) :
+    ThreeAPFree (((-a +ᵥ B).preimage (↑) Set.injOn_subtype_val : Finset V) : Set V) := by
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: This lemma is the composition of two much more general lemmas:
* `ThreeAPFree` is invariant under translation
* `ThreeAPFree` is preserved under injective monoid homs

Could you prove these two lemmas instead?

**Comment by YaelDillies** [comment]
Sorry, I just pushed a large refactor to use the material that was newly upstreamed from APAP to AddCombi in YaelDillies/add-combi#2. You will need to resolve conflicts again.

**Comment by dannyply** [comment]
Rebased on current master

File: APAP/FiniteField.lean [hunk 2]
```diff
@@ -101,9 +104,621 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+              ‖dft (μ T) ψ ^ k‖ * ‖dft f ψ‖ := norm_mul _ _
+          _ ≤ Real.exp (-(k : ℝ)) * ‖dft f ψ‖ := by
+            gcongr
+            exact norm_dft_mu_pow_le_exp_neg_nat_of_not_mem_largeSpec_closure T hT k ψ hψ
+    _ = Real.exp (-(k : ℝ)) * ‖dft f‖ₙ_[1] := by
+      rw [MeasureTheory.cL1Norm_eq_expect_norm, Finset.mul_expect]
+
+private lemma cLinftyNorm_dft_mu_le_one [MeasurableSpace G]
+    [DiscreteMeasurableSpace G] (A : Finset G) (hA : A.Nonempty) :
+    ‖dft (μ_[ℂ] A)‖ₙ_[∞] ≤ 1 := by
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]:
```suggestion
    [DiscreteMeasurableSpace G] (A : Finset G) :
    ‖dft (μ_[ℂ] A)‖ₙ_[∞] ≤ 1 := by
```
Same below

File: APAP/FiniteField.lean [hunk 3]
```diff
@@ -101,9 +104,621 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+  classical
+  rw [MeasureTheory.cLpNorm_exponent_top_eq_essSup (f := dft (μ_[ℂ] A))]
+  refine ciSup_le fun ψ ↦ ?_
+  simpa [MeasureTheory.dL1Norm_mu hA] using norm_dft_le_dL1Norm (μ_[ℂ] A : G → ℂ) ψ
+
+private lemma cL2Norm_dft_mu_eq_inv_sqrt_card [MeasurableSpace G]
+    [DiscreteMeasurableSpace G] (A : Finset G) (hA : A.Nonempty) :
+    ‖dft (μ_[ℂ] A)‖ₙ_[2] = (#A : ℝ) ^ (-2⁻¹ : ℝ) := by
+  classical
+  rw [cL2Norm_dft, MeasureTheory.dL2Norm_mu hA]
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: Can you make these lemmas public and move them earlier?

**Comment by dannyply** [comment]
Rebased on current master

File: APAP/FiniteField.lean [hunk 4]
```diff
@@ -99,9 +104,629 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+private lemma curlog_pow_le {n : ℕ} (hx₀ : 0 < x) (hn : n ≠ 0) :
+    𝓛 (x ^ n) ≤ n * 𝓛 x := by
   rw [← rpow_natCast]; exact curlog_rpow_le hx₀ <| mod_cast Nat.one_le_iff_ne_zero.2 hn
 
+lemma ThreeAPFree.preimage_addMonoidHom {H K : Type*}
+    [AddMonoid H] [AddMonoid K] {s : Set K} (hs : ThreeAPFree s) (f : H →+ K)
+    (hf : Function.Injective f) :
+    ThreeAPFree (f ⁻¹' s) := by
+  intro a ha b hb c hc h
+  exact hf <| hs ha hb hc <| by simpa using congr_arg f h
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: Can you move this to an earlier file? probably under APAP.Mathlib. See instructions in the README and `#min_imports`

File: APAP/FiniteField.lean [hunk 5]
```diff
@@ -99,9 +104,629 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+    (A₁ A₂ S : Finset G) :
+    Complex.ofReal ∘ (μ_[ℝ] A₁ ∗ᵈ μ A₂ ○ᵈ 𝟭_[S]) =
+      (μ_[ℂ] A₁ ∗ᵈ 𝟭_[-S] ∗ᵈ μ A₂ : G → ℂ) := by
+  rw [mu_ddconv_mu_dddconv_indicator_one]
+  rw [Complex.ofReal_comp_ddconv, Complex.ofReal_comp_ddconv, Complex.ofReal_comp_indicator_one]
+  simp
+
+lemma norm_dft_le_dL1Norm [MeasurableSpace G]
+    [DiscreteMeasurableSpace G] (f : G → ℂ) (ψ : AddChar G ℂ) :
+    ‖dft f ψ‖ ≤ ‖f‖_[1] := by
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: Can you move this to an earlier file and mention in the docstring that this is a special case of Hausdorff-Young?

File: APAP/FiniteField.lean [hunk 6]
```diff
@@ -99,9 +104,629 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+      have h := MeasureTheory.nnnorm_wInner_one_le_dLpNorm_mul_dLpNorm
+        (p := ∞) (q := 1) (f := ψ) (g := f)
+      exact mod_cast h
+    _ = ‖f‖_[1] := by
+      rw [MeasureTheory.dLinftyNorm_eq_iSup_norm]
+      simp [AddChar.norm_apply]
+
+lemma cLinftyNorm_dft_mu_le_one [MeasurableSpace G]
+    [DiscreteMeasurableSpace G] (A : Finset G) (hA : A.Nonempty) :
+    ‖dft (μ_[ℂ] A)‖ₙ_[∞] ≤ 1 := by
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: Same here. Also can you replace the normalised indicator by an arbitrary function and replace the RHS with its L^1 norm?

File: APAP/FiniteField.lean [hunk 7]
```diff
@@ -174,87 +799,164 @@ lemma ap_in_ff [DecidableEq G] (hq₃ : 3 ≤ q) (hq : q.Prime) (hα₀ : 0 < α
...
-  · obtain ⟨Δ', hΔ'Δ, hΔ'card, hfΔ'⟩ : ∃ Δ' ⊆ Δ, _ := chang (mu_ne_zero.2 hT) (by norm_num)
+  · obtain ⟨Δ', _, hΔ'card, hfΔ'⟩ : ∃ Δ' ⊆ Δ, _ := chang (mu_ne_zero.2 hT) (by positivity)
     let W : Submodule (ZMod q) G := AddSubgroup.toZModSubmodule _ <| ⨅ γ ∈ Δ', γ.toAddMonoidHom.ker
-    have mem_W {x} : x ∈ W ↔ ∀ γ ∈ Δ', γ x = 1 := by simp [W]
-    have hWV : W ≤ V := by sorry
-    have :=
+    have hWV : W ≤ V := by
+      intro x hx
+      simp [W, V] at hx ⊢
+      intro γ hγ
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]:
```suggestion
      simp [SetLike.le_def, W, V] at hx ⊢
      intro x hx γ hγ
```

**Review by YaelDillies — COMMENTED** [review]
Can you try generalising each of the prerequisite lemmas and moving them to earlier files?

File: APAP/FiniteField.lean [hunk 8]
```diff
@@ -99,9 +104,629 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+  rw [← ddconv_conjneg]
+  simp [ddconv_right_comm]
+
+private lemma ofReal_comp_mu_ddconv_mu_dddconv_indicator_one [DecidableEq G]
+    (A₁ A₂ S : Finset G) :
+    Complex.ofReal ∘ (μ_[ℝ] A₁ ∗ᵈ μ A₂ ○ᵈ 𝟭_[S]) =
+      (μ_[ℂ] A₁ ∗ᵈ 𝟭_[-S] ∗ᵈ μ A₂ : G → ℂ) := by
+  rw [mu_ddconv_mu_dddconv_indicator_one]
+  rw [Complex.ofReal_comp_ddconv, Complex.ofReal_comp_ddconv, Complex.ofReal_comp_indicator_one]
+  simp
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: This should be provable by simp. Try adding simp lemmas until the following proof works
```suggestion
private lemma ofReal_comp_mu_ddconv_mu_dddconv_indicator_one [DecidableEq G]
    (A₁ A₂ S : Finset G) :
    Complex.ofReal ∘ (μ_[ℝ] A₁ ∗ᵈ μ A₂ ○ᵈ 𝟭_[S]) =
      (μ_[ℂ] A₁ ∗ᵈ 𝟭_[-S] ∗ᵈ μ A₂ : G → ℂ) := by
  simp
```

File: APAP/FiniteField.lean [hunk 9]
```diff
@@ -99,9 +104,629 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+  classical
+  rw [MeasureTheory.cLpNorm_exponent_top_eq_essSup (f := dft (μ_[ℂ] A))]
+  refine ciSup_le fun ψ ↦ ?_
+  simpa [MeasureTheory.dL1Norm_mu hA] using norm_dft_le_dL1Norm (μ_[ℂ] A : G → ℂ) ψ
+
+lemma cL2Norm_dft_mu_eq_inv_sqrt_card [MeasurableSpace G]
+    [DiscreteMeasurableSpace G] (A : Finset G) (hA : A.Nonempty) :
+    ‖dft (μ_[ℂ] A)‖ₙ_[2] = (#A : ℝ) ^ (-2⁻¹ : ℝ) := by
+  classical
+  rw [cL2Norm_dft, MeasureTheory.dL2Norm_mu hA]
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: This lemma isn't worth having since it is the straightforward combination of two simpler lemmas

File: APAP/FiniteField.lean [hunk 10]
```diff
@@ -99,9 +104,629 @@ private lemma curlog_rpow_le (hx₀ : 0 < x) (hy : 1 ≤ y) : 𝓛 (x ^ y) ≤ y
...
+    _ ≤ ‖dft (μ_[ℂ] A₁)‖ₙ_[2] * ‖dft (𝟭_[-S] : G → ℂ)‖ₙ_[2] := by
+      simpa using MeasureTheory.cL1Norm_mul_le (2 : ℝ≥0∞) (2 : ℝ≥0∞)
+        (f := dft (μ_[ℂ] A₁)) (g := dft (𝟭_[-S] : G → ℂ))
+    _ = (#A₁ : ℝ) ^ (-2⁻¹ : ℝ) * Real.sqrt (#S) := by
+      rw [cL2Norm_dft_mu_eq_inv_sqrt_card A₁ hA₁]
+      congr 1
+      rw [cL2Norm_dft]
+      simpa using
+        (MeasureTheory.dL2Norm_indicator_one (-S : Finset G) :
+          ‖𝟭_[((-S : Finset G) : Set G), ℂ]‖_[2] = Real.sqrt #(-S : Finset G))
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: Do you know about `grw`? I suspect this can become a five lines proof if you use it

**Comment by dannyply** [comment]
Thanks, I followed your suggestions by moving the reusable lemmas to earlier files, applying the generalizations and using `grw`.

File: APAP/Prereqs/FourierTransform/Discrete.lean [hunk 11]
```diff
@@ -30,6 +30,27 @@ noncomputable def dft (f : G → ℂ) : AddChar G ℂ → ℂ := fun ψ ↦ ⟪
...
+/-- A special case of the **Hausdorff-Young inequality** for the discrete Fourier transform. -/
+lemma norm_dft_le_dL1Norm [MeasurableSpace G] [DiscreteMeasurableSpace G]
+    (f : G → ℂ) (ψ : AddChar G ℂ) :
+    ‖dft f ψ‖ ≤ ‖f‖_[1] := by
+  calc
+    ‖dft f ψ‖ = ‖⟪ψ, f⟫_[ℂ]‖ := by rw [dft_apply]
+    _ ≤ ‖(ψ : G → ℂ)‖_[∞] * ‖f‖_[1] := by
+      have h := MeasureTheory.nnnorm_wInner_one_le_dLpNorm_mul_dLpNorm
+        (p := ∞) (q := 1) (f := ψ) (g := f)
+      exact mod_cast h
```
Comment (YaelDillies) [inline APAP/Prereqs/FourierTransform/Discrete.lean]:
```suggestion
    _ ≤ ‖(ψ : G → ℂ)‖_[∞] * ‖f‖_[1] :=
      mod_cast nnnorm_wInner_one_le_dLpNorm_mul_dLpNorm (p := ∞) (q := 1) (f := ψ) (g := f)
```
maybe `open MeasureTheory` at the top of the file

File: APAP/Prereqs/Convolution/Discrete/Basic.lean [hunk 12]
```diff
@@ -88,6 +88,11 @@ lemma indicator_one_dddconv (s : Finset G) (f : G → R) : 𝟭_[s] ○ᵈ f = 
 lemma dddconv_indicator_one (f : G → R) (s : Finset G) : f ○ᵈ 𝟭_[s] = ∑ a ∈ s, τ (-a) f := by
   ext; simp [dddconv_eq_sum_add, Set.indicator_apply]
 
+@[simp] lemma ddconv_dddconv_indicator_one (f g : G → R) (s : Finset G) :
+    f ∗ᵈ g ○ᵈ 𝟭_[s] = f ∗ᵈ 𝟭_[-s] ∗ᵈ g := by
```
Comment (YaelDillies) [inline APAP/Prereqs/Convolution/Discrete/Basic.lean]: This lemma is doing two things at once. The second thing is already `ddconv_right_comm`, so let it be the first thing instead, ie
```suggestion
lemma dddconv_indicator_one (f : G → R) (s : Finset G) : f ○ᵈ 𝟭_[s] = f ∗ᵈ 𝟭_[-s] := by
```
and let's not make it simp since it is not obviously a simplification

File: APAP/Prereqs/Convolution/Discrete/Basic.lean [hunk 13]
```diff
@@ -88,6 +88,11 @@ lemma indicator_one_dddconv (s : Finset G) (f : G → R) : 𝟭_[s] ○ᵈ f = 
 lemma dddconv_indicator_one (f : G → R) (s : Finset G) : f ○ᵈ 𝟭_[s] = ∑ a ∈ s, τ (-a) f := by
```
Comment (YaelDillies) [inline APAP/Prereqs/Convolution/Discrete/Basic.lean]:
```suggestion
lemma dddconv_indicator_one_eq_sum (f : G → R) (s : Finset G) : f ○ᵈ 𝟭_[s] = ∑ a ∈ s, τ (-a) f := by
```
to avoid a name clash

File: APAP/Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,20 @@
...
+-/
+
+public section
+
+variable {G H : Type*}
+
+/-- Injective additive monoid homomorphisms preserve 3AP-freeness by preimage. -/
+lemma ThreeAPFree.preimage_addMonoidHom [AddMonoid G] [AddMonoid H] {s : Set H}
+    (hs : ThreeAPFree s) (f : G →+ H) (hf : Function.Injective f) :
+    ThreeAPFree (f ⁻¹' s) := by
```
Comment (YaelDillies) [inline APAP/Mathlib/Combinatorics/Additive/AP/Three/Defs.lean]: Can you multiplicativise this and get the additive result back with `to_additive`?

**Comment by dannyply** [comment]
Thanks, I updated the remaining points as suggested and did another small cleanup pass.

**Comment by dannyply** [comment]
Fixed the build failure that my local stale .olean files had missed.

File: APAP/Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,21 @@
...
+
+This file contains basic `ThreeGPFree`/`ThreeAPFree` lemmas missing from Mathlib.
+-/
+
+public section
+
+variable {G H : Type*}
+
+/-- Injective monoid homomorphisms preserve 3GP-freeness by preimage. -/
+@[to_additive]
```
Comment (YaelDillies) [inline APAP/Mathlib/Combinatorics/Additive/AP/Three/Defs.lean]: Docstrings aren't automatically additivised
```suggestion
/-- 3GP-freeness is preserved under preimage of injective monoid homs. -/
@[to_additive
/-- 3AP-freeness is preserved under preimage of injective monoid homs. -/]
```

File: APAP/Prereqs/FourierTransform/Discrete.lean [hunk 16]
```diff
@@ -30,6 +30,25 @@ noncomputable def dft (f : G → ℂ) : AddChar G ℂ → ℂ := fun ψ ↦ ⟪
...
+      mod_cast nnnorm_wInner_one_le_dLpNorm_mul_dLpNorm (p := ∞) (q := 1) (f := ψ) (g := f)
+    _ = ‖f‖_[1] := by
+      rw [dLinftyNorm_eq_iSup_norm]
+      simp [AddChar.norm_apply]
+
+/-- A special case of the **Hausdorff-Young inequality** for the discrete Fourier transform. -/
+lemma cLinftyNorm_dft_le_dL1Norm [MeasurableSpace G] [DiscreteMeasurableSpace G]
+    (f : G → ℂ) :
+    ‖dft f‖ₙ_[∞] ≤ ‖f‖_[1] := by
+  rw [MeasureTheory.cLpNorm_exponent_top_eq_essSup (f := dft f)]
```
Comment (YaelDillies) [inline APAP/Prereqs/FourierTransform/Discrete.lean]:
```suggestion
  rw [cLpNorm_exponent_top_eq_essSup]
```

**Review by YaelDillies — COMMENTED** [review]
Can you update the blueprint too? You need to add `\leanok` in the `ff` item.

**Comment by dannyply** [comment]
> Can you update the blueprint too? You need to add `\leanok` in the `ff` item.

Doesn't the ff item already have \leanok? I see it in blueprint/src/chapter/ff.tex right after \lean{ff}.

**Comment by YaelDillies** [comment]
Oh sorry, I mean (the proof of) `ap_in_ff`

File: APAP/Mathlib/Combinatorics/Additive/AP/Three/Defs.lean [hunk 17]
```diff
@@ -0,0 +1,16 @@
...
+public section
+
+variable {G H : Type*}
+
+/-- 3GP-freeness is preserved under preimage of injective monoid homs. -/
+@[to_additive
+/-- 3AP-freeness is preserved under preimage of injective monoid homs. -/]
+lemma ThreeGPFree.preimage_monoidHom [Monoid G] [Monoid H] {s : Set H}
+    (hs : ThreeGPFree s) (f : G →* H) (hf : Function.Injective f) :
+    ThreeGPFree (f ⁻¹' s) := by
```
Comment (YaelDillies) [inline APAP/Mathlib/Combinatorics/Additive/AP/Three/Defs.lean]: Actually this is a special case of `IsAddFreimanHom.threeAPFree`. Can you remove?

**Comment by dannyply** [comment]
Removed the local preimage lemma and rewrote the use through AddMonoidHomClass.isAddFreimanHom ... .threeAPFree.

File: APAP.lean [hunk 18]
```diff
@@ -14,8 +14,10 @@ public import APAP.Mathlib.Analysis.Convolution
 public import APAP.Mathlib.Analysis.Normed.Ring.Basic
 public import APAP.Mathlib.Analysis.RCLike.Basic
 public import APAP.Mathlib.Analysis.SpecialFunctions.Complex.Circle
+public import Mathlib.Combinatorics.Additive.AP.Three.Defs
```
Comment (YaelDillies) [inline APAP.lean]:
```suggestion
```

File: APAP/FiniteField.lean [hunk 19]
```diff
@@ -198,63 +435,96 @@ public lemma ap_in_ff [DecidableEq G] (hq : q.Prime) (hα₀ : 0 < α) (hα₂ :
...
         rw [log_inv, log_rpow (by positivity)]; ring_nf
-      _ ≤ 2 ^ 12 * log α⁻¹ * ⌈𝓛 (min 1 A₂.dens)⌉ * k ^ 2 / ε ^ 2 := by
+      _ ≤ 2 ^ 12 * log α⁻¹ * ⌈𝓛 (min 1 A₂.dens)⌉ * k ^ 2 / (3 * ε / 8) ^ 2 := by
         rw [nnratCast_dens, ← card_univ]; gcongr; exact S.subset_univ
-      _ ≤ 2 ^ 12 * log α⁻¹ * ⌈𝓛 (min 1 α)⌉ * (k) ^ 2 / ε ^ 2 := by gcongr
-      _ = 2 ^ 12 * log α⁻¹ * ⌈𝓛 α⌉ * k ^ 2 / ε ^ 2 := by rw [min_eq_right hα₁]
-      _ ≤ 2 ^ 12 * 𝓛 α * (2 * 𝓛 α) * (2 ^ 3 * 𝓛 (ε * α)) ^ 2 / ε ^ 2 := by
+      _ ≤ 2 ^ 12 * log α⁻¹ * ⌈𝓛 (min 1 α)⌉ * k ^ 2 / (3 * ε / 8) ^ 2 := by gcongr
+      _ = 2 ^ 12 * log α⁻¹ * ⌈𝓛 α⌉ * k ^ 2 / (3 * ε / 8) ^ 2 := by rw [min_eq_right hα₁]
+      _ ≤ 2 ^ 12 * 𝓛 α * (2 * 𝓛 α) * (3 * 𝓛 (ε * α)) ^ 2 / (3 * ε / 8) ^ 2 := by
```
Comment (YaelDillies) [inline APAP/FiniteField.lean:223]: Can you explain where this change comes from?

Comment (dannyply) [reply APAP/FiniteField.lean:223]: I traced the constants and I think this change is legitimate.

The final error bound in the new Fourier-tail step is `2 * AP_error + tail`. The tail is bounded by `ε / 4`, so the AP lemma is run with `AP_error = 3ε/8`, giving `2*(3ε/8) + ε/4 = ε`.

The worse `(3ε/8)^2` denominator is offset by the sharper estimate `⌈𝓛(εα/4)⌉ ≤ 3𝓛(εα)`, so the final codimension bound is unchanged.

File: APAP/FiniteField.lean [hunk 20]
```diff
@@ -192,11 +397,11 @@ public lemma ap_in_ff [DecidableEq G] (hq : q.Prime) (hα₀ : 0 < α) (hα₂ :
   have hT : T.Nonempty := by
     have hTpos : 0 < (#T : ℝ) := hTcard.trans_lt' (by positivity)
     simpa using hTpos
-  let Δ := largeSpec (μ T) 2⁻¹
+  let Δ := largeSpec (μ T) (exp (-1))
```
Comment (YaelDillies) [inline APAP/FiniteField.lean:201]: Can you explain this change?

Comment (dannyply) [reply APAP/FiniteField.lean:201]: It's proof driven, using `exp (-1)` gives the clean tail bound `exp (-k)` for `dft (μ T) ψ ^ k` outside the generated spectrum closure. The fixed-factor loss in Chang is absorbed by the final `2^32` codimension bound.

**Review by YaelDillies — APPROVED** [review]
Thank you very much!
